US09376392B2
(5-(Trifluoromethyl)pyridin-3-yl)methyl methanesulfonate was prepared in a similar manner as used to prepare pyrimidin-5-ylmethyl methanesulfonate using (5-(trifluoromethyl)pyridin-3-yl)methanol instead of pyrimidin-5-ylmethanol. LCMS-ESI+ (m/z): [M+H]+ calc'd for C8H8F3NO3S: 256.02; found: 256.06.

reactant | pyrimidin-5-ylmethyl methanesulfonate | CS(=O)(=O)OCC=1C=NC=NC1 | C6H8N2O3S
reactant | (5-(trifluoromethyl)pyridin-3-yl)methanol | FC(C=1C=C(C=NC1)CO)(F)F | C7H6F3NO
product | (5-(Trifluoromethyl)pyridin-3-yl)methyl methanesulfonate | CS(=O)(=O)OCC=1C=NC=C(C1)C(F)(F)F | C8H8F3NO3S
